US08957070B2
N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of N-(2-cyano-1H-indol-7-yl)thiophene-2-sulfonamide (0.54 g), 2-aminoethanethiol (0.14 g) and ethanol (20 mL) was stirred at 60° C. overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography, and eluted with ethyl acetate. The eluate was treated with activated carbon and concentrated to give the title compound (0.19 g, yield 29%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point 189-190° C.

reactant | N-(2-cyano-1H-indol-7-yl)thiophene-2-sulfonamide | 0.54 g | C(#N)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C13H9N3O2S2
reactant | 2-aminoethanethiol | 0.14 g | NCCS | C2H7NS
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.19 g, yield 29% | S1C(=NCC1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H13N3O2S3
